US05912244
a) 1-(5-Bromo-2-hydroxyphenyl)propan-1-one
To a stirred mixture of aluminium trichloride (2.5 kg) in dichloromethane (5000 ml) at room temperature was added propanoyl chloride (864 g) over a 5 minute period. The mixture was stirred for 45 minutes at room temperature and then a solution of 4-bromoanisole (875 g) in dichloromethane (1000 ml) was added over 15 minutes. The reaction was heated under reflux for 6 hours then cooled and stirred at room temperature overnight.

reactant | aluminium trichloride | 2.5 kg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | propanoyl chloride | 864 g | C(CC)(=O)Cl | C3H5ClO
reactant | 4-bromoanisole | 875 g | BrC1=CC=C(C=C1)OC | C7H7BrO
solvent | dichloromethane | 5000 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | 1-(5-Bromo-2-hydroxyphenyl)propan-1-one | BrC=1C=CC(=C(C1)C(CC)=O)O | C9H9BrO2
